US09340556B2
To a solution of 2-bromoaniline (2 g, 11.63 mmol) in Isopropanol (15 mL) stirred under nitrogen at room temperature was added neat ethyl 2-(ethoxymethylene)-3-oxobutanoate (2.165 g, 11.63 mmol) in one charge. The reaction mixture was stirred at room temperature for 20 min, at which time LCMS showed only a trace amount of product. The reaction mixture was heated to 75° C. and stirred for 20 min. LCMS showed complete conversion. The mixture was cooled to room temperature and concentrated under vacuum, during which time a large amount of material precipitated out. Filtration followed by a hexanes wash afforded ethyl 2-(((2-bromophenyl)amino)methylene)-3-oxobutanoate (3.8 g, 10.96 mmol, 94% yield) that was apx. 90% pure to be used in the next step. LCMS: (M+H)+: 312.0.

reactant | 2-bromoaniline | 11.63 mmol, 2 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | ethyl 2-(ethoxymethylene)-3-oxobutanoate | 11.63 mmol, 2.165 g | C(C)OC=C(C(=O)OCC)C(C)=O | C9H14O4
solvent | Isopropanol | 15 mL | C(C)(C)O | C3H8O
product | ethyl 2-(((2-bromophenyl)amino)methylene)-3-oxobutanoate | 10.96 mmol, 3.8 g, 94% yield | BrC1=C(C=CC=C1)NC=C(C(=O)OCC)C(C)=O | C13H14BrNO3
